US08865725B2
Tetrakis(triphenylphosphine)palladium(0) (6.4 mg, 0.0055 mmol) was added to a stirred suspension of 3-bromo-6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (116 mg, 0.18 mmol), methylboronic acid (55.05 mg, 0.92 mmol) and K2CO3 (76.3 mg, 0.23 mmol) in a mixture of 1,4-dioxane (7.07 mL) and DMF (1.77 mL) under nitrogen and in a sealed tube. The mixture was stirred at 150° C. for 45 minutes under microwave irradiation. The solvents were evaporated in vacuo and the crude product was purified by flash column chromatography (silica; 7 M solution of ammonia in MeOH in DCM with a gradient of 0/100 to 1.5/98.5 and then AcOEt in DCM with a gradient of 0/100 to 10/90). The desired fractions were collected and the solvents evaporated in vacuo. The product was purified by RP HPLC (C18 XBridge 19×100 5 um, gradient from 80% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 20% CH3CN to 0% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 100% MeOH) to yield 6-(4-fluoro-phenyl)-3-methyl-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one (36.5 mg, 56% yield). 1H NMR (400 MHz, CDCl3) 8 ppm 2.52 (s, 3H), 3.26 (t, J=6.5 Hz, 2H), 3.98 (t, J=6.6 Hz, 2H), 4.96 (s, 2H), 6.97 (br. t, J=7.4, 7.4 Hz, 1H), 7.00-7.06 (m, 2H), 7.09-7.18 (m, 2H), 7.27-7.37 (m, 4H).

reactant | 3-bromo-6-(4-fluoro-phenyl)-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 0.18 mmol, 116 mg | BrC1=C(N=C2N1C(N(CC2)C2=CC=C(C=C2)F)=O)COC2=CC=CC=C2 | C19H15BrFN3O2
reactant | methylboronic acid | 0.92 mmol, 55.05 mg | CB(O)O | CH5BO2
reactant | K2CO3 | 0.23 mmol, 76.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 7.07 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1.77 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0055 mmol, 6.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-fluoro-phenyl)-3-methyl-2-phenoxymethyl-7,8-dihydro-6H-imidazo[1,2-c]pyrimidin-5-one | 36.5 mg, 56% yield | FC1=CC=C(C=C1)N1C(N2C(CC1)=NC(=C2C)COC2=CC=CC=C2)=O | C20H18FN3O2
